US06355702B1
Synthesis of 2,9-Dimethyl-2,9-Decanediol Diacrylate
Synthesis was carried out as in Example I except that 10.1 g (0.05 mol) of 2,9-dimethyl-2,9-decanediol prepared as in Background Example 3 was substituted for the 2,7-dimethyl-2,7-octanediol.

reactant | 2,9-dimethyl-2,9-decanediol | 0.05 mol, 10.1 g | CC(C)(CCCCCCC(C)(O)C)O | C12H26O2
reactant | 2,7-dimethyl-2,7-octanediol | CC(C)(CCCCC(C)(O)C)O | C10H22O2
product | 2,9-Dimethyl-2,9-Decanediol Diacrylate | C(C=C)(=O)OC(C)(CCCCCCC(C)(OC(C=C)=O)C)C | C18H30O4
